US06162927
N-Propyl-N-propoxyamine hydrochloride
N-Boc-N-propyl-N-propoxyamine (5.8 g) was dissolved in 4N HCl/dioxane (10 mL) and stirred at room temperature for 7 hours. The solvent was removed in vacuo and the residue triturated with diethyl ether. The resulting yellow solid (2.1 g) was collected by filtration and washed with diethyl ether.

reactant | N-Boc-N-propyl-N-propoxyamine | 5.8 g | C(=O)(OC(C)(C)C)N(OCCC)CCC | C11H23NO3
reactant | HCl dioxane | 4N, 10 mL | Cl.O1CCOCC1
product | N-Propyl-N-propoxyamine hydrochloride | Cl.C(CC)NOCCC | InChI=1S/C6H15NO.ClH/c1-3-5-7-8-6-4-2;/h7H,3-6H2,1-2H3;1H
